US04971963
In 20 ml of ethanol was suspended 1.49 g of thiazolidine -2,4-dithione, and 20 ml of 1N-sodium hydroxide solution was added under ice-cooling and stirring. To the mixture was added 1.29 g of α-chloroacetamidine hydrochloride, and the resultant was stirred at room temperature for 2.5 hours and concentrated. The precipitating crystals were collected by filtration, suspended to water, and hydrochloric acid was added to the suspension to dissolve the crystals. Thereafter this solution was subjected to a column chromatography on XAD-II (450 ml) being eluted with water. The eluate was evaporated to dryness and treated with ethanol. The resultant crystals were washed with a (1:2) mixture of ethanol and ethyl acetate to give 0.48 g of 4-amidinomethylthio-2-mercaptothiazole hydrochloride as colorless crystals. mp 178°-181° C. (decomp.)

reactant | thiazolidine -2,4-dithione | 1.49 g | S1C(NC(C1)=S)=S | C3H3NS3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | α-chloroacetamidine hydrochloride | 1.29 g | Cl.ClCC(=N)N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-amidinomethylthio-2-mercaptothiazole hydrochloride | 0.48 g | Cl.C(N)(=N)CSC=1N=C(SC1)S | InChI=1S/C5H7N3S3.ClH/c6-3(7)1-10-4-2-11-5(9)8-4;/h2H,1H2,(H3,6,7)(H,8,9);1H
